US06730683B2
d) 1-Cyclopentyl-4-(4-fluorophenyl)-5-[2-phenylamino-pyrimidin-4-yl]imidazole
The reaction was conducted in a manner analogous to Example 2d except substituting polymer-bound 1-cyclopentyl-4-(4-fluorophenyl)-5-[(2-sulfonyl)pyrimidin-4-yl]imidazole for polymer-bound 1-cyclohexyl-4-(4-fluorophenyl)-5-[(2-sulfonyl)pyrimidin-4-yl]imidazole: ESMS m/z=400 (MH)+

reactant | 1-cyclopentyl-4-(4-fluorophenyl)-5-[(2-sulfonyl)pyrimidin-4-yl]imidazole | C1(CCCC1)N1C=NC(=C1C1=NC(NC=C1)=S(=O)=O)C1=CC=C(C=C1)F | C18H17FN4O2S
reactant | 1-cyclohexyl-4-(4-fluorophenyl)-5-[(2-sulfonyl)pyrimidin-4-yl]imidazole | C1(CCCCC1)N1C=NC(=C1C1=NC(NC=C1)=S(=O)=O)C1=CC=C(C=C1)F | C19H19FN4O2S
product | 1-Cyclopentyl-4-(4-fluorophenyl)-5-[2-phenylamino-pyrimidin-4-yl]imidazole | C1(CCCC1)N1C=NC(=C1C1=NC(=NC=C1)NC1=CC=CC=C1)C1=CC=C(C=C1)F | C24H22FN5
